US07767675B2
Step 3. 1-quinolin-6-ylcyclopropanecarbaldehyde
Diisobutylaluminum hydride (1M in THF, 96 mL, 96 mmol) was added to a solution of 1-quinolin-6-ylcyclopropanecarbonitrile (12.4 g, 63.9 mmol) in toluene (120 mL) at −78° C. under an atmosphere of nitrogen. The reaction mixture was allowed to warm to −5 to 0° C., and stirred at that temperature for 3 h. The reaction mixture was cooled to −60° C. Isopropyl alcohol (10 mL) was carefully added dropwise. After stirring for 30 min, the reaction mixture was warmed to −5 to 0° C. The reaction mixture was diluted with ethyl acetate, quenched with water and extracted with ethyl acetate. The combined organic extracts were washed with water, brine, dried over sodium sulfate, filtered through a pad of silica gel eluting with 40% ethyl acetate in hexanes. The filtrate was concentrated to yield the desired product. (12 g, 95.1%).

reactant | Diisobutylaluminum hydride | 96 mmol, 1M, 96 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-quinolin-6-ylcyclopropanecarbonitrile | 63.9 mmol, 12.4 g | N1=CC=CC2=CC(=CC=C12)C1(CC1)C#N | C13H10N2
reactant | Isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-quinolin-6-ylcyclopropanecarbaldehyde | N1=CC=CC2=CC(=CC=C12)C1(CC1)C=O | C13H11NO
